US06562849B1
1-[2-t-Butyl-5-(2-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]-3-[4-(trifluoromethyl)phenyl]urea (exemplification compound number 2-205)
A mixture of 5-[4-[6-[2-(3-amino-4-t-butylphenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (0.40 g), α,α,α-trifluoro-p-tolyl isocyanate (0.13 g), triethylamine (0.13 g) and anhydrous N,N-dimethylformamide (8 ml) was stirred at room temperature for 24 hours and then at 60° C. for 2.5 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by preparative reverse phase high performance liquid chromatography using acetonitrile:water=57:43 containing triethylamine (2%) and acetic acid (2%) as the eluant to afford the title compound (0.24 g, mp 165-167° C.).

reactant | 5-[4-[6-[2-(3-amino-4-t-butylphenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.40 g | Cl.Cl.NC=1C=C(C=CC1C(C)(C)C)CCOC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1
reactant | α,α,α-trifluoro-p-tolyl isocyanate | 0.13 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | triethylamine | 0.13 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-[2-t-Butyl-5-(2-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]-3-[4-(trifluoromethyl)phenyl]urea | 0.24 g | C(C)(C)(C)C1=C(C=C(C=C1)CCOC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C)C1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C39H38F3N5O5S
